US04166131
2,2-dimethyl-5-indanacetic acid
2,2-dimethyl-α-oxo-5-indanacetic acid methyl ester is reduced in a manner analogous to that described in Example 4. The cyclohexyl-ammonium salt of the title compound has an M.P. of 155°-156°.

reactant | 2,2-dimethyl-α-oxo-5-indanacetic acid methyl ester | COC(C(C=1C=C2CC(CC2=CC1)(C)C)=O)=O | C14H16O3
reactant | cyclohexyl-ammonium | C1(CCCCC1)[NH3+]
product | 2,2-dimethyl-5-indanacetic acid | CC1(CC2=CC=C(C=C2C1)CC(=O)O)C | C13H16O2
